US06028195
1-[(2-Methoxyquinolin-3-yl)aminocarbonyl]-4-(2-chlorophenyl)piperazine
Phenyl N-(2-methoxyquinoline-3-yl)carbamate and 1-(2-chlorophenyl)piperazine were reacted by the same way with the example 81 to obtain the titled compound.

reactant | Phenyl N-(2-methoxyquinoline-3-yl)carbamate | COC1=NC2=CC=CC=C2C=C1NC(OC1=CC=CC=C1)=O | C17H14N2O3
reactant | 1-(2-chlorophenyl)piperazine | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
product | 1-[(2-Methoxyquinolin-3-yl)aminocarbonyl]-4-(2-chlorophenyl)piperazine | yield: 78% | COC1=NC2=CC=CC=C2C=C1NC(=O)N1CCN(CC1)C1=C(C=CC=C1)Cl | C21H21ClN4O2
